US07084178B2
cis-2-[(4-Chlorobenzenesulfonyl)-(4-trifluoromethyl-benzyl)-amino]-cyclohexanecarboxylic acid amide.
The titled compound (155 mg) was prepared in 52% yield from cis-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide and 1-bromomethyl-4-trifluoromethyl-benzene according to the procedure described in Example 11: 1H NMR (DMSO-d6) δ 7.80 (d, 2 H, J=8.6 Hz), 7.61 (m, 4 H), 7.49 (d, 2 H,J=8.0 Hz), 7.32 (s, 1 H), 6.66 (s, 1 H), 4.65 (AB2, 2 H, Δv=17, Jab=64 Hz), 3.88 (m, 1 H), 2.80 (s, 1 H), 2.44 (m, 1 H), 1.79 (m, 1 H), 1.65 (m, 2 H), 1.30 (m, 3 H), 0.92 (m, 1 H); MS m/e 475.01 (M+H)+.

reactant | cis-2-(4-chlorobenzenesulfonylamino)-cyclohexanecarboxylic acid amide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CCCC1)C(=O)N | C13H17ClN2O3S
reactant | 1-bromomethyl-4-trifluoromethyl-benzene | BrCC1=CC=C(C=C1)C(F)(F)F | C8H6BrF3
product | cis-2-[(4-Chlorobenzenesulfonyl)-(4-trifluoromethyl-benzyl)-amino]-cyclohexanecarboxylic acid amide | 155 mg, 52% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H]1[C@@H](CCCC1)C(=O)N)CC1=CC=C(C=C1)C(F)(F)F | C21H22ClF3N2O3S
